US04134994
Bis-(hydroxyethyl) amino benzyl malonic acid was prepared conventionally in a flask equipped with a stirrer and reflux condenser by first charging 0.1 mol of malonic acid, 0.1 mol of diethanol amine and 100 cc methanol. The contents were warmed to a temperature of about 20° C. and then 0.1 mol benzaldehyde were added to the flask and the reaction commenced. After refluxing the reaction mixture for 1 hour, the methanol was removed from the reaction mixture by coupling the flask to a vacuum source and heating to a temperature of about 50° C. The residue remaining in the flask then was triturated in acetone and the resulting acid isolated by filtration.

reactant | malonic acid | 0.1 mol | C(CC(=O)O)(=O)O | C3H4O4
reactant | diethanol amine | 0.1 mol | N(CCO)CCO | C4H11NO2
reactant | benzaldehyde | 0.1 mol | C(C1=CC=CC=C1)=O | C7H6O
solvent | methanol | 100 cc | CO | CH4O
product | Bis-(hydroxyethyl) amino benzyl malonic acid | OCCN(CCO)C(C(=O)O)(C(=O)O)CC1=CC=CC=C1 | C14H19NO6
